US04898946
4-allyloxy-2,2,6,6-tetramethyl-piperidine (150 g, 0.76 mol), di-allyl carbonate (115 g, 0.8 mol) and PdCl2 (1.35 g, 1.6 mmol) are charged under nitrogen atmosphere into a 3-necked 500 ml-flask equipped with a thermometer and a reflux condenser. The solution is heated under stirring to 110° C. for 24 hours. Gas-chromatographic analysis of the reaction mixture then shows that the reaction produced the desired 1-allyl-4-allyloxy-2,2,6,6-tetramethyl-piperidine in 63% yield (calculated on the starting 4-allyloxy-2,2,6,6-tetramethyl-piperidine) and >97% selectivity.

reactant | 4-allyloxy-2,2,6,6-tetramethyl-piperidine | 0.76 mol, 150 g | C(C=C)OC1CC(NC(C1)(C)C)(C)C | C12H23NO
reactant | di-allyl carbonate | 0.8 mol, 115 g | C(OCC=C)(OCC=C)=O | C7H10O3
catalyst | PdCl2 | 1.6 mmol, 1.35 g | Cl[Pd]Cl
product | 1-allyl-4-allyloxy-2,2,6,6-tetramethyl-piperidine | 63% yield | C(C=C)N1C(CC(CC1(C)C)OCC=C)(C)C | C15H27NO
